US04859684
(a-2) A mixture of 5.6 parts of N-(5-benzoyl-2-nitrophenyl)acetamide, 2 parts of a solution of thiophene in methanol 4%, 200 parts of methanol and 7 parts of 2-propanol, saturated with hydrogen chloride was hydrogenated at normal pressure and at room temperature with 1 part of platinum-on-charcoal catalyst 5%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was washed with 2-propanone and dried, yielding 4.2 parts (73%) of (1-hydroxy-2-methyl-1H-benzimidazol-5-yl) phenylmethanone monohydrochloride as a residue (int. 49).

reactant | N-(5-benzoyl-2-nitrophenyl)acetamide | C(C1=CC=CC=C1)(=O)C=1C=CC(=C(C1)NC(C)=O)[N+](=O)[O-] | C15H12N2O4
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | hydrogen chloride | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | platinum-on-charcoal | [Pt] | Pt
solvent | 2-propanol | CC(C)O | C3H8O
product | (1-hydroxy-2-methyl-1H-benzimidazol-5-yl) phenylmethanone monohydrochloride | 73% | Cl.ON1C(=NC2=C1C=CC(=C2)C(=O)C2=CC=CC=C2)C | InChI=1S/C15H12N2O2.ClH/c1-10-16-13-9-12(7-8-14(13)17(10)19)15(18)11-5-3-2-4-6-11;/h2-9,19H,1H3;1H
